US09340556B2
To a solution of 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid (1.46 g, 5.13 mmol) in N,N-dimethylformamide (DMF) (20 mL) was added potassium carbonate (1.772 g, 12.82 mmol) followed by 1-(chloromethyl)-4-methoxybenzene (1.392 mL, 10.26 mmol). The mixture was heated at 50° C. for 12 h, extracted with ethyl acetate and washed with water, brine, dried over magnesium sulfate. The solvent was removed under vacuum and the residue was chromatographed on ISCO silica column eluting with 0-10% methanol:dichloromethane to afford 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylate (1.4 g, 2.170 mmol, 42.3% yield). LCMS: (M+H)+: 645.2

reactant | 5-chloro-1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid | 5.13 mmol, 1.46 g | ClC1=C2C(C(=NN(C2=CC(=C1O)O)CC)C(=O)O)=O | C11H9ClN2O5
reactant | potassium carbonate | 12.82 mmol, 1.772 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)-4-methoxybenzene | 10.26 mmol, 1.392 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-methoxybenzyl 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 2.170 mmol, 1.4 g, 42.3% yield | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C(=O)OCC1=CC=C(C=C1)OC)=O | C35H33ClN2O8
